US07915261B2
Diethyl azodicarboxylate (0.35 ml, 40% Tol solution) was dropwise added to a THF (5 ml) solution containing 3-pyridyl 4-(4-hydroxyphenoxy)-1-piperidinecarboxylate (160 mg), 3-chlorobenzyl alcohol (110 mg) and triphenylphosphine (200 mg) at 0° C., followed by stirring at room temperature for 24 hours. The reaction solution was diluted with chloroform, washed with aqueous saturated sodium hydrogencarbonate solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane:EtOAc=1:3 (v/v)). The resulting oil was dissolved in EtOAc (5 ml), and 4 M hydrogen chloride/EtOAc solution (1 ml) was added thereto, followed by stirring at room temperature. The solvent was evaporated under reduced pressure, and the precipitated solid was recrystallized from EtOAc/2-propanol to obtain 3-pyridyl 4-{4-[(3-chlorobenzyl)oxy]phenoxy}-1-piperidinecarboxylate hydrochloride (45 mg).

reactant | Diethyl azodicarboxylate | 0.35 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-pyridyl 4-(4-hydroxyphenoxy)-1-piperidinecarboxylate | 160 mg | OC1=CC=C(OC2CCN(CC2)C(=O)OC=2C=NC=CC2)C=C1 | C17H18N2O4
reactant | 3-chlorobenzyl alcohol | 110 mg | ClC=1C=C(CO)C=CC1 | C7H7ClO
reactant | triphenylphosphine | 200 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-pyridyl 4-{4-[(3-chlorobenzyl)oxy]phenoxy}-1-piperidinecarboxylate hydrochloride | 45 mg | Cl.ClC=1C=C(COC2=CC=C(OC3CCN(CC3)C(=O)OC=3C=NC=CC3)C=C2)C=CC1 | InChI=1S/C24H23ClN2O4.ClH/c25-19-4-1-3-18(15-19)17-29-20-6-8-21(9-7-20)30-22-10-13-27(14-11-22)24(28)31-23-5-2-12-26-16-23;/h1-9,12,15-16,22H,10-11,13-14,17H2;1H
